US03996366
A solution of 328 g. bromine in 300 ml. chloroform was added gradually to a stirred solution of 300 g. 1-methylcyclohexyl methyl ketone in 100 ml. methanol. After the addition of a few drops of bromine solution at 15° C. the reaction mixture was cooled and maintained between 0° - 5°C. The reaction mixture was stirred for 10 minutes, after the addition of bromine had been completed, and then poured on to a mixture of crushed ice and water. The water layer was separated from the organic liquid and extracted with methylene chloride. The extract and the organic portion were combined and washed with water followed by a saturated solution of sodium bicarbonate and then finally with water. After drying over calcium chloride the liquid was evaporated and distilled to give bromomethyl 1-methylcyclohexyl ketone, b.p. 76° - 78° C./0.1 mm. Hg.

reactant | bromine | BrBr | Br2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | 1-methylcyclohexyl methyl ketone | CC(=O)C1(CCCCC1)C | C9H16O
reactant | methanol | CO | CH4O
catalyst | bromine | a few drops | BrBr | Br2
solvent | water | O | H2O
product | bromomethyl 1-methylcyclohexyl ketone | CC1(CCCCC1)C(=O)CBr | C9H15BrO
